US04344945
1-Benzyl-4-[N-(o-nitrobenzyl)-amino]-piperidine dihydrochloride
In this reference example, 5.24 g of 1-benzyl-4-amino-piperidine dihydrochloride, 3.02 g of o-nitrobenzaldehyde, 2.02 g of triethylamine and 30 ml of methanol are mixed and stirred at room temperature for one hour. The resultant solution is cooled with ice and stirred. To the stirred solution, 1 g of sodium borohydride is added little by little over a period of one hour. Then, the mixture is brought back to room temperature and stirred at room temperature for 2 hours. The resultant solution is poured into 200 ml of ice water and extracted with ether. The organic layer is washed with water, dried and concentrated. The oily residue is dissolved in 20 ml of ethanol. The solution is mixed with 10 ml of a solution of 5.7 N hydrochloric acid in ethyl acetate. The white crystals deposited are separated by filtration, washed with 20 ml of ethyl acetate and dried to obtain 5.70 g of a crude product. The crude product is recrystallized from hot ethanol to obtain 2.90 g of the desired product.

reactant | 1-benzyl-4-amino-piperidine dihydrochloride | 5.24 g | Cl.Cl.C(C1=CC=CC=C1)N1CCC(CC1)N
reactant | o-nitrobenzaldehyde | 3.02 g | [N+](=O)([O-])C1=C(C=O)C=CC=C1 | C7H5NO3
reactant | triethylamine | 2.02 g | C(C)N(CC)CC | C6H15N
reactant | sodium borohydride | 1 g | [BH4-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
product | 1-Benzyl-4-[N-(o-nitrobenzyl)-amino]-piperidine dihydrochloride | 2.90 g | Cl.Cl.C(C1=CC=CC=C1)N1CCC(CC1)NCC1=C(C=CC=C1)[N+](=O)[O-] | InChI=1S/C19H23N3O2.2ClH/c23-22(24)19-9-5-4-8-17(19)14-20-18-10-12-21(13-11-18)15-16-6-2-1-3-7-16;;/h1-9,18,20H,10-15H2;2*1H
